US06552036B2
N,N-Diethyl-4-[(8-propyl-8-azabicyclo[3.2.1] oct-3-ylidene)phenylmethyl]benzamide Hydrochloride [1:1]
A slurry of 0.4 g (1.0 mmol) N,N-diethyl-4-[(8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzamide, 0.11 mL (1.5 mmol) propionaldehyde, 0.1 mL (1.7 mmol) HOAc, and 0.5 g (2.3 mmol) NaBH(OAc)3 in 20 mL DCE was allowed to stir for 16 h. The reaction was made strongly basic with 3N NaOH and diluted with CH2Cl2. The organic layer was separated, washed with brine, dried over K2CO3, filtered, and concentrated. The remaining oil was absorbed onto silica gel and purified by flash chromatography eluted with 5% 0.5 M NH3 in MeOH 95% CH2Cl2. The pure product (0.25 g, 0.6 mmol) was taken up in Et2O, filtered, and precipitated after the addition of ethereal HCl; mp 184-184° C. MS m/z (MH+) 417. 1H NMR 300 MHz (CD3OD) δ 7.2-7.45 (m, 9H), 3.95-4.05 (m, 2H), 3.45-3.6 (m, 2H), 3.2-3.3 (m, 2H), 2.95-3.05 (m, 2H), 2.55-2.7 (m, 4H), 2.2-2.3 (m, 2H), 1.95-2.05 (m, 2H), 1.7-1.85 (m, 2H), 1.0-1.35 (br m, 9H). Anal calc C28H36N2O HCl.0.5H2O: C, 72.78; H, 8.29; N, 6.06. Found: C, 73.01; H, 7.94; N, 5.85.

reactant | N,N-diethyl-4-[(8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzamide | 1.0 mmol, 0.4 g | C(C)N(C(C1=CC=C(C=C1)C(C1=CC=CC=C1)=C1CC2CCC(C1)N2)=O)CC | C25H30N2O
reactant | propionaldehyde | 1.5 mmol, 0.11 mL | C(CC)=O | C3H6O
reactant | HOAc | 1.7 mmol, 0.1 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 2.3 mmol, 0.5 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 3N | [OH-].[Na+]
reactant | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | N,N-Diethyl-4-[(8-propyl-8-azabicyclo[3.2.1] oct-3-ylidene)phenylmethyl]benzamide Hydrochloride | Cl.C(C)N(C(C1=CC=C(C=C1)C(C1=CC=CC=C1)=C1CC2CCC(C1)N2CCC)=O)CC | InChI=1S/C28H36N2O.ClH/c1-4-18-30-25-16-17-26(30)20-24(19-25)27(21-10-8-7-9-11-21)22-12-14-23(15-13-22)28(31)29(5-2)6-3;/h7-15,25-26H,4-6,16-20H2,1-3H3;1H
